US06586445B1
(3R)-3-(4-Phenyl-1H-imidazol-2-yl)-2,3,4,9-tetrahydro-1′-benzoyl-spiro[1H-β-carboline-1,4′-piperidine]hydrochloride
To a solution of (1R)-2-(1H-indol-3-yl)-1-(4-phenyl-1H-imidazol-2-yl)-1-ethanamine hydrochloride (1 g, 2.65 mmol) in isopropanol (15 ml) was added N-benzoyl-4-piperidone (2.64 g, 13 mmol). The solution was refluxed for about one hour and cooled to about 20° C. The solvent was removed under reduced pressure. The residue was treated with dichloromethane (30 ml) and stirred for about 30 min at about 20° C. The resulting precipitate was collected by filtration, washed with dichloromethane and diethyl ether, and dried to afford 1.2 g of the title product as the hydrochloride salt. Melting point: 240-244° C.

reactant | (1R)-2-(1H-indol-3-yl)-1-(4-phenyl-1H-imidazol-2-yl)-1-ethanamine hydrochloride | 2.65 mmol, 1 g | Cl.N1C=C(C2=CC=CC=C12)C[C@@H](N)C=1NC=C(N1)C1=CC=CC=C1
reactant | N-benzoyl-4-piperidone | 13 mmol, 2.64 g | C(C1=CC=CC=C1)(=O)N1CCC(CC1)=O | C12H13NO2
solvent | isopropanol | 15 ml | C(C)(C)O | C3H8O
product | (3R)-3-(4-Phenyl-1H-imidazol-2-yl)-2,3,4,9-tetrahydro-1′-benzoyl-spiro[1H-β-carboline-1,4′-piperidine]hydrochloride | 1.2 g | Cl.C1(=CC=CC=C1)C=1N=C(NC1)[C@@H]1NC2(CCN(CC2)C(C2=CC=CC=C2)=O)C=2NC3=CC=CC=C3C2C1 | InChI=1S/C31H29N5O.ClH/c37-30(22-11-5-2-6-12-22)36-17-15-31(16-18-36)28-24(23-13-7-8-14-25(23)33-28)19-26(35-31)29-32-20-27(34-29)21-9-3-1-4-10-21;/h1-14,20,26,33,35H,15-19H2,(H,32,34);1H/t26-;/m1./s1
